US04612317
4-Chlorobenzyl (3R)-3-(2-hydroxyethyl)-1,2,3,4-tetrahydro-β-carboline-2-carbodithioate:
In the same manner as described in Example 13 by using (3R)-3-(2-hydroxyethyl)-1,2,3,4-tetrahydro-β-carboline (100 mg), 2N NaOH (0.23 ml), CS2 (0.028 ml), 4-chlorobenzyl chloride (82 mg) and 70% ethanol (2.5 ml), there is prepared the title compound (66 mg, 34%) as white powder, [α]D20 -115.8° (c=1.0, ethyl acetate). Mass m/e: 416 (M+), 258 (M+ --p--Cl--C6H4 --CH2SH).

reactant | (3R)-3-(2-hydroxyethyl)-1,2,3,4-tetrahydro-β-carboline | 100 mg | OCC[C@@H]1NCC=2NC3=CC=CC=C3C2C1 | C13H16N2O
reactant | NaOH | 2N, 0.23 ml | [OH-].[Na+]
reactant | CS2 | 0.028 ml | C(=S)=S | CS2
reactant | 4-chlorobenzyl chloride | 82 mg | ClC1=CC=C(CCl)C=C1 | C7H6Cl2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | ethanol | 2.5 ml | C(C)O | C2H6O
product | 4-Chlorobenzyl (3R)-3-(2-hydroxyethyl)-1,2,3,4-tetrahydro-β-carboline-2-carbodithioate | 66 mg, 34% | OCC[C@@H]1N(CC=2NC3=CC=CC=C3C2C1)C(=S)SCC1=CC=C(C=C1)Cl | C21H21ClN2OS2
